US04369178
10-(2-Hydroxy-3,4-dimethoxy-6-methylphenyl)decanoic acid (236.9 mg, 0.7 mmol) and p-nitrophenol (107.1 mg, 0.77 mmol) were dissolved in acetonitrile (2 ml). To this solution was added DCC (158.9 mg, 0.77 mmol) under ice-cooling. The solution was stirred at room temperature for 16 hours. The insoluble material was removed by filtration and the solvent was evaporated under reduced pressure. The residue was chromatographed on a silica gel column with chloroform as eluent to obtain about 5 m mol of 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decanoic acid p-nitrophenyl ester. The ester was dissolved in DMF (1.5 ml). To this solution was added methyl 1-α-O-benzyl-N-acetylmuramyl-L-valyl-D-isoglutaminate (0.15 g, 0.25 mmol), HoBt(0.14 g, 1 mmol) and NEM (128 μl, 1 mmol) and the reaction mixture was stirred at room temperature for four days. After evaporation, the residue was purified by the chromatography on a silica gel column with chloroform/acetone/methanol (10:3:1, v/v) as eluent and precipitated as a gel from ethanol/ether to obtain methyl 1-α-O-benzyl-6-O-{10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decanoyl}-N-acetylmuramyl-L-valyl-D-isoglutaminate (0.13 g). [α]D22 +71.8° (C 0.5, DMF). Rf4 =0.70.

reactant | 10-(2-Hydroxy-3,4-dimethoxy-6-methylphenyl)decanoic acid | 0.7 mmol, 236.9 mg | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCC(=O)O | C19H30O5
reactant | p-nitrophenol | 0.77 mmol, 107.1 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | DCC | 0.77 mmol, 158.9 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 10-(2-hydroxy-3,4-dimethoxy-6-methylphenyl)decanoic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CCCCCCCCCC1=C(C(=C(C=C1C)OC)OC)O)=O | C25H33NO7
